US08614327B2
To a solution of 1-(2-tert-butylphenyl)pyrrolidine-2,5-dione (500 mg, 2.16 mmol) in THF (10 mL) was added BH3 in toluene (350 mg, 1.72 mmol) dropwise and the reaction mixture was heated to reflux overnight. The reaction was cooled to room temperature and quenched with methanol (until the evolution of H2 ceased). The solvent was evaporated to obtain 1-(2-tert-butylphenyl)pyrrolidine (350 mg, 80%) as an oil. 1H NMR (400 MHz, CDCl3) δ 7.30 (s, 1H), 7.28 (s, 1H), 7.15 (d, J=0.9 Hz, 1H), 7.07-7.01 (m, 1H), 2.90 (s, 4H), 1.88-1.78 (m, 4H), 1.35 (s, 9H). LC/MS: m/z 204.1 (M+H)+ at 0.88 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 1-(2-tert-butylphenyl)pyrrolidine-2,5-dione | 2.16 mmol, 500 mg | C(C)(C)(C)C1=C(C=CC=C1)N1C(CCC1=O)=O | C14H17NO2
reactant | toluene | 1.72 mmol, 350 mg | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2-tert-butylphenyl)pyrrolidine | 350 mg, 80% | C(C)(C)(C)C1=C(C=CC=C1)N1CCCC1 | C14H21N
